US07141595B2
(1-Benzyl-piperidin-4-yl)-(6-nitro-benzothiazol-2-yl)-amine
2-Chloro-6-nitro-benzothiazol (200 mg, 0.93 mmol) was placed in a 15 mL vial equipped with a stribar and septum. The vial was purged with argon and charged with DMF (1.0 mL). Diisopropyl-ethylamine (0.37 mL, 2 eq.) was added resulting in a reddish solution. Amino-4-benzylpiperidine (177 mg, 1 eq.) in DMF (1.0 mL) was added via syringe. The dark solution was then heated to 110° C. for 30 minutes in an aluminum block. The mixture was cooled in an ice bath and diluted with water (10 mL) while stirring vigorously. The compound oiled out. Ethyl acetate (25 mL) was added followed by 2 M NaOH (5 mL) was added and the layers shaken and separated. The aqueous phase was extracted with ethyl acetate (25 mL). The combined organic fractions were washed with brine (2×24 mL), dried over MgSO4, filtered and evaporated to give a brown oil. The oil was purified by chromatography on silica gel (2% 2M ammonia/methanol in CH2Cl2) to give a yellow foam (166 mg, 47%). 1H NMR (CDCl3) δ: 8.50 (d, 1H, J=2.4 Hz), 8.20 (dd, 1H, J=2.4, 8.9 Hz), 7.51 (d, 1H, J=8.9 Hz), 7.32 (m, 5H), 5.63 (d, 1H, J=6 Hz), 3.70 (br s, 1H), 3.55 (s, 2H), 2.89 (m, 2H), 2.28–2.11 (m, 4), 1.73–1.56 (m, 2H).

reactant | 2-Chloro-6-nitro-benzothiazol | 0.93 mmol, 200 mg | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | Diisopropyl-ethylamine | 0.37 mL, 2 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Amino-4-benzylpiperidine | 177 mg, 1 eq. | NN1CCC(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | aluminum | [Al] | Al
reactant | NaOH | 2 M, 5 mL | [OH-].[Na+]
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
solvent | Ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (1-Benzyl-piperidin-4-yl)-(6-nitro-benzothiazol-2-yl)-amine | 166 mg, 47% | C(C1=CC=CC=C1)N1CCC(CC1)NC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C19H20N4O2S
